US07572792B2
tert-butyl 3-cyano-3-pyridin-2-ylazetidine-1-carboxylate (14.2 g, 55 mmol) in 1,2-dichloroethane (120 ml) was cooled in an ice-bath and treated with methyl triflate. The reaction was stirred at room temperature for 1 hour then at reflux overnight (no starting material in the solution). The resulting orange/brown precipitate was filtered off and washed with more 1,2-dichloroethane. The solid was then dissolved in ethanol (150 ml) and acetic acid (1.5 eq, 5.5 ml) was added. Platinum dioxide (1.5 g) was added and the reaction hydrogenated on a parr at 40 psi overnight. Tlc and mass spec showed complete conversion. The reaction was filtered under nitrogen and the filtrate was evaporated to dryness to give tert-Butyl 3-cyano-3-(1-methylpiperidin-2-yl)azetidine-1-carboxylate as an oil which was used without further purification. m/z (M++H) 280.

reactant | tert-butyl 3-cyano-3-pyridin-2-ylazetidine-1-carboxylate | 55 mmol, 14.2 g | C(#N)C1(CN(C1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C14H17N3O2
reactant | methyl triflate | O(S(=O)(=O)C(F)(F)F)C | C2H3F3O3S
reactant | acetic acid | 5.5 ml, 1.5 eq | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 120 ml | ClCCCl | C2H4Cl2
catalyst | Platinum dioxide | 1.5 g | [Pt](=O)=O
product | tert-Butyl 3-cyano-3-(1-methylpiperidin-2-yl)azetidine-1-carboxylate | C(#N)C1(CN(C1)C(=O)OC(C)(C)C)C1N(CCCC1)C | C15H25N3O2
